US06914059B2
(2R)-Methyl-3-amino-6-(4,4,4-trifluorobutylamino-methyl)-2H-1,4-benzoxazine-dihydrochloride
780 mg (3.668 mmol) of (2R)-methyl-3-oxo-6-aminomethyl-2H-1,4-benzoxazine-hydrochloride, 462.4 mg (3.668 mmol) of 4,4,4-trifluorobutyraldehyde and 371.2 mg (3.668 mmol) of triethylamine are dissolved in a mixture that consists of methanol and tetrahydrofuran (4:1). After three hours of stirring at room temperature, 75.2 mg of sodium borohydride is added. After stirring overnight at room temperature, the batch is added to water and shaken three times with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried and spun in. After chromatography on silica gel (mobile solvent: dichloromethane/isopropanol, 608.8 mg (55%) of the desired compound is obtained.

reactant | (2R)-methyl-3-oxo-6-aminomethyl-2H-1,4-benzoxazine-hydrochloride | 3.668 mmol, 780 mg | Cl.C[C@H]1OC2=C(NC1=O)C=C(C=C2)CN
reactant | 4,4,4-trifluorobutyraldehyde | 3.668 mmol, 462.4 mg | FC(CCC=O)(F)F | C4H5F3O
reactant | triethylamine | 3.668 mmol, 371.2 mg | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 75.2 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | (2R)-Methyl-3-amino-6-(4,4,4-trifluorobutylamino-methyl)-2H-1,4-benzoxazine-dihydrochloride | 608.8 mg, 55% | Cl.Cl.C[C@H]1OC2=C(N=C1N)C=C(C=C2)CNCCCC(F)(F)F | InChI=1S/C14H18F3N3O.2ClH/c1-9-13(18)20-11-7-10(3-4-12(11)21-9)8-19-6-2-5-14(15,16)17;;/h3-4,7,9,19H,2,5-6,8H2,1H3,(H2,18,20);2*1H/t9-;;/m1../s1
